US06376494B1
1-Methyl-cyclohexanecarboxylic acid {(1R)-1-cyclohexylmethyl-2-[4-(2,3dihydro-benzo[1,4]dioxin-5-yl)-piperazin-1-yl]ethyl}-methyl-amide
To a solution of 0.7 g (1.87 mmol) of {(1R)-1-cyclohexylmethyl-2-[4-(2,3dihydro-benzo[1,4]dioxin-5-yl)-piperazin-1-yl]-ethyl}-methyl-amine and 0.5 mL (3.7 mmol) of triethylamine in 10 mL of dichloromethane at 0° C. was added dropwise 0.3 g (1.87 mmol) of 1-methyl-cyclohexanecarboxylic acid chloride in dichloromethane. The reaction mixture was allowed to stir under nitrogen overnight at ambient temperature and was then concentrated on a rotary evaporator, diluted with ethyl acetate and washed with H2O and brine. The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated on a rotary evaporator to yield the crude product, which was purified by flash chromatography on silica gel (ethyl acetate/hexanes) and converted to the hydrochloride salt of the title compound with ethereal HCl to yield 0.85 g (91%) of the title compound as a white solid; mp=219-220° C.; MS(+)ESI m/z=498 (M+H)+.

reactant | {(1R)-1-cyclohexylmethyl-2-[4-(2,3dihydro-benzo[1,4]dioxin-5-yl)-piperazin-1-yl]-ethyl}-methyl-amine | 1.87 mmol, 0.7 g | C1(CCCCC1)C[C@H](CN1CCN(CC1)C1=CC=CC=2OCCOC21)NC | C22H35N3O2
reactant | triethylamine | 3.7 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-cyclohexanecarboxylic acid chloride | 1.87 mmol, 0.3 g | CC1(CCCCC1)C(=O)Cl | C8H13ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-Methyl-cyclohexanecarboxylic acid {(1R)-1-cyclohexylmethyl-2-[4-(2,3dihydro-benzo[1,4]dioxin-5-yl)-piperazin-1-yl]ethyl}-methyl-amide | 0.85 g, 91% | C1(CCCCC1)C[C@H](CN1CCN(CC1)C1=CC=CC=2OCCOC21)N(C(=O)C2(CCCCC2)C)C | C30H47N3O3
